US07906528B2
The 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (50 mg, 0.10 mmol) is dissolved in EtOH (2 mL), 10% Pd/C (5 mg) is added, and the mixture is shook in a parr-reactor under 50 psi of H2 over 18 h. Filter, remove solvents and chromatograph the residue affords 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester as colorless oil: 1H NMR (CDCl3) 8.80 (s, 1H), 7.36 (s, 1H), 7.27 (t, J=7 Hz, 1H), 7.13 (d, J=12 Hz, 2H), 7.04 (s, 1H), 4.36 (m, 1H), 4.21 (m, 1H), 2.96 (m, 1H), 2.92 (m, 1H), 2.34 (m, 4H), 2.03 (m, 1H), 1.86 (m, 4H), 1.63 (m, 2H), 1.49 (s, 9H), 1.28 (m, 4H), 1.02 (t, J=8 Hz, 6H), 0.90 (t, J=8 Hz, 6H); LCMS m/z 532.39 (2.58 min).

reactant | 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.10 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C(CCC)CCC | C34H47N3O2
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 4-[5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C(CCC)CCC | C34H49N3O2
